US08686134B2
A slight excess of lithium bis[(trifluoromethyl)sulfonyl]imide dissolved in water was added to an aqueous solution of 6-azonia-spiro[5,6]dodecane bromide and stirred at room temperature for several hours. The reaction mixture was transferred to a separating funnel and the heavy layer washed several times with water. The addition of a small amount of dichloromethane aided the separation of the aqueous and organic layer. The heavy organic layer was then evaporated to dryness leaving a pale yellow solid, 6-azonia-spiro[5,6]dodecane bis[(trifluoromethyl)sulfonyl]imide with a melting point of 96° C. ES/MS 168 (Cation C11H22N), −280 (Anion C2F6NS2O4).

reactant | lithium bis[(trifluoromethyl)sulfonyl]imide | [N-](S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F.[Li+]
reactant | 6-azonia-spiro[5,6]dodecane bromide | [Br-].C1CCCC[N+]12CCCCCC2
solvent | water | O | H2O
product | 6-azonia-spiro[5,6]dodecane bis[(trifluoromethyl)sulfonyl]imide | [N-](S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F.C1CCCC[N+]12CCCCCC2 | InChI=1S/C11H22N.C2F6NO4S2/c1-2-5-9-12(8-4-1)10-6-3-7-11-12;3-1(4,5)14(10,11)9-15(12,13)2(6,7)8/h1-11H2;/q+1;-1
